US07754745B2
Step 1: 5-{(3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3,4-thiadiazole-2-carbonitrile
The title compound was prepared according to the procedure described for Example 6, step 2 from (3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidine hydrochloride and 5-bromo-1,3,4-thiadiazole-2-carbonitrile.

reactant | (3S)-3-[2-(trifluoromethyl)phenoxy]-pyrrolidine hydrochloride | Cl.FC(C1=C(O[C@@H]2CNCC2)C=CC=C1)(F)F
reactant | 5-bromo-1,3,4-thiadiazole-2-carbonitrile | BrC1=NN=C(S1)C#N | C3BrN3S
product | 5-{(3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3,4-thiadiazole-2-carbonitrile | FC(C1=C(O[C@@H]2CN(CC2)C2=NN=C(S2)C#N)C=CC=C1)(F)F | C14H11F3N4OS
